US05945556
20 g (0.5 mol) of NaOH are dissolved in 100 ml of water, and 38.2 g (0.2 mol) of 2,4-dichlorobenzoic acid, 22.5 g (0.3 mol) of glycine and 1.4 g (6 mmol) of basic copper carbonate are added. The mixture is heated to 80° C., and 28 g (0.2 mol) of potassium carbonate are added. It is heated at 100° C. for 3 h. The filtrate after filtration with suction while hot is added to 100 ml of water and adjusted to pH 1-2 with hydrochloric acid. The product then precipitates and is filtered with suction and dried. 41 g (0.18 mol; 89%) of N-carboxymethylene-4-chloroanthranilic acid are obtained.

reactant | NaOH | 0.5 mol, 20 g | [OH-].[Na+]
reactant | 2,4-dichlorobenzoic acid | 0.2 mol, 38.2 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | glycine | 0.3 mol, 22.5 g | NCC(=O)O | C2H5NO2
reactant | potassium carbonate | 0.2 mol, 28 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
catalyst | copper carbonate | 6 mmol, 1.4 g | C([O-])([O-])=O.[Cu+2]
product | N-carboxymethylene-4-chloroanthranilic acid | 0.18 mol, 41 g, 89% | C(=O)(O)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C9H6ClNO4
